US04663319
Sodium (0.77 g) is dissolved in methanol (30 ml), and thereto is added dropwise a solution of ethyl [N-(3-pyridylmethyl)-N-(methoxycarbonylethyl)carbamoyl]acetate (10.0 g) in benzene (170 ml) at 3°-8° C. The mixture is stirred at the same meperature for 2 hours. The mixture is distilled to remove the solvent, and the residue is dissolved in water. The aqueous solution is extracted with benzene, and the aqueous layer is neutralized with 10% HCl, and extracted with chloroform. The extract is dried and distilled to remove the solvent to give methyl 1-(3-pyridylmethyl)-2,4-dioxopiperidine-3-carboxylate (8.50 g, quantitative) as oil.

reactant | Sodium | 0.77 g | [Na] | Na
reactant | ethyl [N-(3-pyridylmethyl)-N-(methoxycarbonylethyl)carbamoyl]acetate | 10.0 g | N1=CC(=CC=C1)CN(C(=O)CC(=O)OCC)CCC(=O)OC | C15H20N2O5
solvent | methanol | 30 ml | CO | CH4O
solvent | benzene | 170 ml | C1=CC=CC=C1 | C6H6
product | methyl 1-(3-pyridylmethyl)-2,4-dioxopiperidine-3-carboxylate | 8.50 g | N1=CC(=CC=C1)CN1C(C(C(CC1)=O)C(=O)OC)=O | C13H14N2O4
